US08034819B2
[4-(Cyclopropylthio)phenyl]acetic acid (13.1 g) was dissolved into ethanol (52 mL). Then, thionyl chloride (5.51 mL) was added dropwise while cooling by an ice bath, and the resulting mixture was stirred for 90 minutes at room temperature. This reaction mixture was concentrated under reduced pressure, and the resulting residue was dissolved in ethyl acetate (125 mL). This ethyl acetate solution was washed with water (4×25 mL) and then a saturated aqueous sodium carbonate solution (25 mL). The resulting mixture was dried over anhydrous sodium sulfate, then filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluant; hexane:ethyl acetate=3:1) to obtain ethyl[4-(cyclopropylthio)phenyl]acetate (15.5 g).

reactant | [4-(Cyclopropylthio)phenyl]acetic acid | 13.1 g | C1(CC1)SC1=CC=C(C=C1)CC(=O)O | C11H12O2S
reactant | thionyl chloride | 5.51 mL | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 52 mL | C(C)O | C2H6O
product | ethyl[4-(cyclopropylthio)phenyl]acetate | 15.5 g | C(C)OC(CC1=CC=C(C=C1)SC1CC1)=O | C13H16O2S
